US06194590B1
A solution is prepared from 8.2 l of water and 8262 g (125.4 mol) of potassium hydroxide (85% pure), 12.5 l of ethanol are added at 50-60° C. and 9079 g of the water-moist mixture, obtained in the 1st stage described above, of methyl benzofuran-3-one-2-carboxylate and ethyl benzofuran-3-one-2-carboxylate (24.79 mol in total) are then added. The mixture is heated under reflux for 45 minutes and 7.3 l of water are then added. This solution is cooled to 20° C. and introduced into a mixture, heated at 55° C., of 17.5 l of concentrated hydrochloric acid and 20 l water in the course of 60 minutes, vigorous evolution of gas taking place. Residues of the alkaline solution are rinsed out with 3 l of water and also introduced into the hydrochloric acid. The mixture is stirred at 60° C. for a further 30 minutes (end of the evolution of gas) and cooled to 20° C. The product is filtered off with suction, rinsed with 6 l of water and dried at 35° c. in a vacuum drying cabinet. 3250 g (94% of theory) of benzofuran-3-one are obtained. HPLC: logP=1.26.

reactant | potassium hydroxide | 125.4 mol, 8262 g | [OH-].[K+]
reactant | methyl benzofuran-3-one-2-carboxylate | O1C(C(C2=C1C=CC=C2)=O)C(=O)OC | C10H8O4
reactant | ethyl benzofuran-3-one-2-carboxylate | 24.79 mol | O1C(C(C2=C1C=CC=C2)=O)C(=O)OCC | C11H10O4
reactant | hydrochloric acid | 17.5 l | Cl | ClH
solvent | water | 20 l | O | H2O
solvent | water | 7.3 l | O | H2O
solvent | water | 9079 g | O | H2O
solvent | ethanol | 12.5 l | C(C)O | C2H6O
solvent | water | 8.2 l | O | H2O
product | benzofuran-3-one | 3250 g, 94% | O1CC(C2=C1C=CC=C2)=O | C8H6O2
